US06903095B2
2-(4-Fluoro-benzyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione
A mixture of 5-hydroxy-isoindole-1,3-dione (200 mg, 1.0 mmol), potassium carbonate (178 mg, 1.05 mmol), 4-fluorobenzylbromide (204 mg, 1.05 mmol) in ethanol (5 mL) was heated at 80° C. overnight. After cooling to room temperature, the reaction mixture was filtered and evaporated. The residue was purified by chromatography (SiO2, heptane-CH2Cl2 2:3 then CH2Cl2— 2N NH3-MeOH 99:1: to 95:5) to afford the title compound (13 mg, 3%) as a white solid. MS: m/e=379.4 (M+).

reactant | 5-hydroxy-isoindole-1,3-dione | 1.0 mmol, 200 mg | OC=1C=C2C(NC(C2=CC1)=O)=O | C8H5NO3
reactant | potassium carbonate | 1.05 mmol, 178 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzylbromide | 1.05 mmol, 204 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-Fluoro-benzyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione | 13 mg, 3% | FC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)OCC2=CC=C(C=C2)F)=O)C=C1 | C22H15F2NO3
